US09085583B2
To a suspension of sodium hydride (73 mg, w/w=60%, 1.8 mmol) tert-butyl 2-methyl-1H-indole-3-carboxylate (350 mg, 1.5 mmol) in tetrahydrofuran (30 mL) was added benzoyl chloride (250 mg, 1.8 mmol). The reaction solution was stirred at room temperature for 12 hours. The mixture was concentrated to give a residue, which was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=3:1) to give tert-butyl 1-benzoyl-2-methyl-1H-indole-3-carboxylate (440 mg, 88%).

reactant | sodium hydride | 1.8 mmol, 73 mg | [H-].[Na+]
reactant | tert-butyl 2-methyl-1H-indole-3-carboxylate | 1.5 mmol, 350 mg | CC=1NC2=CC=CC=C2C1C(=O)OC(C)(C)C | C14H17NO2
reactant | benzoyl chloride | 1.8 mmol, 250 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl 1-benzoyl-2-methyl-1H-indole-3-carboxylate | 440 mg, 88% | C(C1=CC=CC=C1)(=O)N1C(=C(C2=CC=CC=C12)C(=O)OC(C)(C)C)C | C21H21NO3
